US06313127B1
A solution of N-(4-pyridyl)piperazine (0.33 g) in dry dimethylformamide (15 ml) was treated with sodium hydride (0.14 g) (45-55% dispersion in oil). The reaction mixture was then stirred for 30 minutes at ambient temperature under argon. 4-Cyanobenzyl bromide (0.41 g) was added and the mixture heated slowly to 80° C. and then maintained at this temperature for 2 hours. The resulting mixture was then poured into water, basified with aq.NaHCO3 solution and then extracted with diethyl ether. The organic extracts were then washed with aq.NaHCO3, water. brine, dried (MgSO4) and evaporated. The residue was recrystallised from toluene/hexane to give 1-(4-pyridyl)-4-(4-cyanobenzyl)piperazine (0.08 g) as a solid. m.p. 137-138° C.; microanalysis, found: C, 73.3; H, 6.5; N, 19.8%; C17H18N4 requires: C, 73.4; H, 6.5; N, 20.1%; NMR: (CDCl3) 2.56(t,4H); 3.35(t,4H); 3.61(s,2H); 6.67(dd,2H); 7.49(d,2H); 7.63(d,2H); 8.28(dd,2H); MS: m/z 279(MH)+.

reactant | N-(4-pyridyl)piperazine | 0.33 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 4-Cyanobenzyl bromide | 0.41 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(4-pyridyl)-4-(4-cyanobenzyl)piperazine | 0.08 g | N1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)C#N | C17H18N4
